US09193723B2
2-cyclopentyl-N-(4-nitrophenyl)acetamide
The title compound was prepared as described in Example 1A, substituting 4-nitroaniline for 3-methylbutan-1-amine and 2-cyclopentylacetic acid for 4-nitrobenzoic acid.

reactant | 3-methylbutan-1-amine | CC(CCN)C | C5H13N
reactant | 2-cyclopentylacetic acid | C1(CCCC1)CC(=O)O | C7H12O2
reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 2-cyclopentyl-N-(4-nitrophenyl)acetamide | C1(CCCC1)CC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O3
